data/oMe_Silver.jsonl
{"reaction_id": "NR-060_1-c1ccccc1_2-CCCC(C)C","name": "Dess-Martin Oxidation","level": "easy","reactants_smiles": ["C(c1ccccc1)(CCCC(C)C)([H])O","CC(=O)OI1(OC(=O)C)(OC(=O)C)C2=CC=CC=C2C(=O)O1"],"products_smiles": ["C(c1ccccc1)(CCCC(C)C)=O"],"conditions": "CH2Cl2 or other aprotic solvent (often implied, not explicitly stated in image)","mechnism_text_description": "The Dess-Martin oxidation converts primary alcohols (like benzyl alcohol shown in the mechanism detail) to aldehydes, or secondary alcohols to ketones, using Dess-Martin Periodinane (DMP). The mechanism begins with a ligand exchange reaction (Step 1): the alcohol (benzyl alcohol) displaces an acetate ligand on the hypervalent iodine atom of DMP, forming an alkoxyperiodinane intermediate and releasing acetic acid. In the second step (Step 2), another acetate molecule (or another base present) abstracts a proton from the carbon atom bearing the alkoxy group (the benzylic proton in this case). This initiates a concerted elimination: the C-H bond electrons form the new carbon-oxygen double bond (aldehyde carbonyl), and simultaneously the bond between the oxygen and the iodine atom breaks, transferring electrons to the iodine. This step releases the aldehyde product (benzaldehyde) and the reduced form of the periodinane (a 1,2-benziodoxol-3(1H)-one derivative).","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "CC(=O)OI1(OC(C)=O)([OH+]C([H])(c1ccccc1)(CCCC(C)C))C2=CC=CC=C2C(=O)O1","step_weight": 0,"rationale": "The alcohol oxygen acts as a nucleophile toward the electron-deficient iodine(V) center, displacing an acetate due to iodine’s high electrophilicity and the good leaving group ability of acetate."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(=O)OI1(OC(C)=O)([O]C([H])(c1ccccc1)(CCCC(C)C))C2=CC=CC=C2C(=O)O1","step_weight": 0,"rationale": "Acetate, a weak base present in the medium, abstracts the α-proton; the benzylic or α-carbon is relatively acidic due to adjacent oxygen, facilitating deprotonation under mild conditions."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccccc1)(CCCC(C)C)=O","step_weight": 0,"rationale": "The C–H bond electrons form the C=O, while the O–I bond breaks; iodine’s ability to stabilize reduction and acetate’s leaving ability drive the elimination to yield the carbonyl product."}],"description": "In the Dess–Martin oxidation, the alcohol oxygen coordinates to the electrophilic iodine(V) center, replacing an acetate ligand. Subsequent deprotonation at the α-carbon facilitates concerted elimination, forming the carbonyl and reducing iodine. Mild, aprotic conditions favor selective oxidation without overoxidation."}
{"reaction_id": "NR-138_1-c1ccc(N(=O)=O)cc1_2-c1ccccc1_3-c1cnccc1_4-c1ccc(C(F)(F)F)cc1_5-c1sc(Br)cc1_6-CC","name": "Mannich Reaction","level": "medium","reactants_smiles": ["C(C(=O)c1ccc(N(=O)=O)cc1)(c1ccccc1)(c1cnccc1)","C(=O)(c1ccc(C(F)(F)F)cc1)(c1sc(Br)cc1)","NCC"],"products_smiles": ["C(C(=O)c1ccc(N(=O)=O)cc1)(c1ccccc1)(c1cnccc1)C(c1ccc(C(F)(F)F)cc1)(c1sc(Br)cc1)NCC"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=[OH+])c1ccc(N(=O)=O)cc1)(c1ccccc1)","rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbonyl carbon via inductive and resonance effects, facilitating subsequent enolization."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1cnccc1)(c1ccccc1)=C(O)c1ccc(N(=O)=O)cc1","rationale": "Proton transfer to the α-carbon promotes enol formation, stabilized by resonance between the α-carbon and the protonated carbonyl."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(=[OH+])c1ccc(N(=O)=O)cc1)(c1ccccc1)(c1cnccc1)C(c1ccc(C(F)(F)F)cc1)(c1sc(Br)cc1)NCC","rationale": "The nucleophilic enol attacks the electrophilic iminium carbon, favored by conjugation and the strong electron-withdrawing effect of the protonated nitrogen."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=O)c1ccc(N(=O)=O)cc1)(c1ccccc1)(c1cnccc1)C(c1ccc(C(F)(F)F)cc1)(c1sc(Br)cc1)NCC","rationale": "Deprotonation restores neutrality, yielding the stable β-amino carbonyl product under thermodynamically favorable conditions."}],"description": "Under acidic conditions, the carbonyl group is activated toward nucleophilic attack via protonation, enabling enolization of the ketone. The enol then attacks the iminium ion formed from the aldehyde and amine, yielding the β-amino carbonyl product after deprotonation."}
